US04025524
To a solution of approximately 59 parts of α-(2-pyridinyl)benzeneacetonitrile in 135 parts of toluene is added, with stirring under nitrogen, 13 parts of a 57% dispersion of sodium hydride in oil. The resultant mixture is heated to 100° and stirred thereat under nitrogen for 1 hour. The greenish-yellow suspension which eventuates is cooled to around 60°, at which temperature a solution of 64 parts of 4-(2-chloroethyl)-4-azatricyclo[4.3.1.13,8 ]undecane in 450 parts of toluene is introduced with stirring, during 20 minutes. The resultant mixture is stirred at 100° for 1 hour, then for 1 hour longer while cooling to room temperature. At this point, 10 parts of water is stirred in, the aqueous and organic phases are separated, the aqueous phase is extracted with toluene and then discarded, and the extract and organic phase are combined and thereupon consecutively washed with water, dried over anhydrous sodium sulfate, and filtered. The filtrate is acidified with a solution of hydrogen chloride in 2-propanol. The precipitate which forms is filtered off and taken up in 10 volumes of water. The resultant solution is made alkaline with aqueous 15% sodium carbonate. The mixture so produced is extracted with diethyl ether. The ether solution is dried over anhydrous sodium sulfate and stripped of solvent by distillation, affording an orange oil. The oil is dissolved in a solution of 27 parts of oxalic acid in 2500 parts of water. Upon removal of water by vacuum distillation, there remains as the residue a gummy material which solidifies on trituration with a 1:1 mixture of diethyl ether and toluene. The solid is filtered out and partitioned between an aqueous 10% solution of sodium carbonate and diethyl ether. The ethereal phase is separated, dried over anhydrous sodium sulfate, filtered, and stripped of solvent by vacuum distillation. The residue is taken up in pentane, and the pentane solution is mixed with decolorizing charcoal and filtered. The filtrate is stripped of solvent by vacuum distillation, and the residue thus obtained is dissolved in 400 parts of absolute ethanol. To the ethanol solution is added a solution of 16 parts of oxalic acid in 80 parts of absolute ethanol. The crystalline precipitate which forms is filtered and taken up in a minimum quantity of water. The resultant solution is made alkaline with aqueous 15% sodium carbonate, and the mixture so produced is extracted with diethyl ether. The ether extract is washed with water, dried over anhydrous sodium sulfate, and stripped of solvent by vacuum distillation, affording 4-[4-azatricyclo(4.3.1.13,8)undecan-4-yl]-2-phenyl-2-(2-pyridinyl)butanenitrile as the residue, a pale yellow gum.

reactant | α-(2-pyridinyl)benzeneacetonitrile | N1=C(C=CC=C1)C(C#N)C1=CC=CC=C1 | C13H10N2
reactant | toluene | C1(=CC=CC=C1)C | C7H8
reactant | sodium hydride | [H-].[Na+]
reactant | 4-(2-chloroethyl)-4-azatricyclo[4.3.1.13,8 ]undecane | ClCCN1C2CC3CC(CC(C1)C3)C2 | C12H20ClN
solvent | oxalic acid | C(C(=O)O)(=O)O | C2H2O4
solvent | water | O | H2O
solvent | ethanol | C(C)O | C2H6O
product | 4-[4-azatricyclo(4.3.1.13,8)undecan-4-yl]-2-phenyl-2-(2-pyridinyl)butanenitrile | C12CC3N(CC(CC(C1)C3)C2)CCC(C#N)(C2=NC=CC=C2)C2=CC=CC=C2 | C25H29N3
